US07276511B2
Synthesis of N1-[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)(4-penten-2-yl)]-N2-ethyl-N1-methyl-N2-phenyloxalamide
N-[2-(S)-(3,4-Dichlorophenyl)-2-(methylamino)-4-pentenyl]-3,3,3-trifluoro-N-methylpropanamide (200 mg) was dissolved in anhydrous methylene chloride (1 mL). Under cooling with ice, N,N-diisopropylethylamine (109 μL) and oxalyl chloride (109 μL) were added thereto, and the mixture was stirred for 30 minuites. A solution of N-ethylaniline (127 mg) in anhydrous methylene chloride (1 mL) was added to the reaction mixture, and the resultant mixture was stirred for 1 hour at room temperature. Water was added to the reaction mixture, extracted with methylene chloride, washed with saturated brine, and dried over sodium sulfate anhydrate. The solvent was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=3:1 to 1:1), to thereby give the title compound (221 mg, 75.8%).

reactant | N-[2-(S)-(3,4-Dichlorophenyl)-2-(methylamino)-4-pentenyl]-3,3,3-trifluoro-N-methylpropanamide | 200 mg | ClC=1C=C(C=CC1Cl)[C@](CN(C(CC(F)(F)F)=O)C)(CC=C)NC | C16H19Cl2F3N2O
reactant | N,N-diisopropylethylamine | 109 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | oxalyl chloride | 109 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-ethylaniline | 127 mg | C(C)NC1=CC=CC=C1 | C8H11N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | N1-[1-(3,3,3-trifluoro-N-methylpropanamido)-2-(S)-(3,4-dichlorophenyl)(4-penten-2-yl)]-N2-ethyl-N1-methyl-N2-phenyloxalamide | 221 mg, 75.8% | FC(CC(=O)N(C)C[C@](CC=C)(C1=CC(=C(C=C1)Cl)Cl)N(C(C(=O)N(C1=CC=CC=C1)CC)=O)C)(F)F | C26H28Cl2F3N3O3
